US07049310B2
c) 5-Bromo-2-(methoxycarbonylmethyl)aminopyridine
A 50% solution of TFA in CH2Cl2 (200 mL) was added to 5-bromo-2-[N-(tert-butoxycarbonyl)-N-(methoxycarbonylmethyl)amino]pyridine (16.5 g, 46 mmole). After stirring for 45 min the reaction was concentrated to dryness, and the residue was diluted with 1.0 N Na2CO3 (300 mL). The mixture was extracted with EtOAc (300 mL), and the organic layer was washed with brine, dried (Na2SO4), and concentrated to dryness under vacuum. The title compound (11.32 g, 100%) was obtained as a white solid: 1H NMR (400 MHz, CDCl3) δ 8.13 (d, J=2.3 Hz, 1 H), 7.48 (dd, 1 H), 6.40 (d, J=8.8 Hz, 1 H), 4.95 (br s, 1H), 4.12 (d, J=5.5 Hz, 2 H), 3.78 (s, 3H).

reactant | TFA | C(=O)(C(F)(F)F)O | C2HF3O2
reactant | 5-bromo-2-[N-(tert-butoxycarbonyl)-N-(methoxycarbonylmethyl)amino]pyridine | 46 mmole, 16.5 g | BrC=1C=CC(=NC1)N(CC(=O)OC)C(=O)OC(C)(C)C | C13H17BrN2O4
solvent | CH2Cl2 | 200 mL | C(Cl)Cl | CH2Cl2
product | 5-Bromo-2-(methoxycarbonylmethyl)aminopyridine | 11.32 g, 100% | BrC=1C=CC(=NC1)NCC(=O)OC | C8H9BrN2O2
